* AQUAPULSE: 4th-Order Butterworth Filter + Push-Pull Transducer Driver SPICE Netlist
* Compatible with ngspice, LTspice, and standard SPICE engines

* --- Power Supplies ---
VCC 10 0 DC 15.0
VEE 11 0 DC -15.0
VDAC 1 0 AC 1.0 SIN(0 1.0 250k)

* --- Stage 1: Sallen-Key 2nd Order Active Low-Pass (OPA1612) ---
R1_1 1 2 1.2k
R2_1 2 3 1.2k
C1_1 2 4 470p
C2_1 3 0 220p
E_OP1 4 0 3 4 100000

* --- Stage 2: Sallen-Key 2nd Order Active Low-Pass (OPA1612) ---
R1_2 4 5 1.2k
R2_2 5 6 1.2k
C1_2 5 7 470p
C2_2 6 0 220p
E_OP2 7 0 6 7 100000

* --- Class-AB Push-Pull Output Stage (BD139 / BD140) ---
R_DRV 7 9 100
RBIAS1 10 8 1.2k
RBIAS2 11 12 1.2k
D1  8 9 D1N4148
D2  9 12 D1N4148

* Top Transistor (NPN BD139)
Q_TOP 10 8 13 QBD139
RE1   13 14 0.47

* Bottom Transistor (PNP BD140)
Q_BOT 11 12 15 QBD140
RE2   15 14 0.47

* DC Blocking & Load
C_OUT 14 16 10u
R_LOAD 16 0 50

* --- Models ---
.MODEL D1N4148 D (IS=2.52n RS=0.568 N=1.752 CJO=4p TT=6n BV=100)
.MODEL QBD139 NPN (IS=1e-13 BF=160 VAF=100 IKF=1.5 ISE=1e-12 NE=1.5 BR=4 VAR=20 IKR=0.3 ISC=1e-11 NC=1.5 RB=1.5 RE=0.1 RC=0.15 CJE=80p CJC=25p TF=1n TR=50n)
.MODEL QBD140 PNP (IS=1e-13 BF=160 VAF=100 IKF=1.5 ISE=1e-12 NE=1.5 BR=4 VAR=20 IKR=0.3 ISC=1e-11 NC=1.5 RB=1.5 RE=0.1 RC=0.15 CJE=80p CJC=25p TF=1n TR=50n)

* --- Analysis Directives ---
.control
  set wr_vecnames
  set wr_singlescale
  
  * AC Analysis
  ac dec 50 10k 10MEG
  wrdata ac_results.txt vdb(16) vp(16)
  
  * Transient Analysis
  tran 10n 20u
  wrdata tran_results.txt v(16) v(1)
  
  * Operating Point for bias checking
  op
  print @q_top[ic] @q_bot[ic]
.endc

.CONTROL
ac dec 50 10k 10meg
wrdata ac_out.txt vdb(16) vp(16)
tran 10n 200u 180u
wrdata tran_out.txt v(16) v(1)
quit
.ENDC

.END

* EOF: hardware/simulation/filter_and_driver_spice.cir
